US06096735
7-Chloro-1-[2-methyl-4-(2-acetylacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.48 g) is dissolved in tetrahydrofuran (7 ml), and thereto is added a 5 N aqueous sodium hydroxide solution (0.5 ml), and the mixture is stirred at room temperature for two hours. The reaction solution is neutralized with a 2 N hydrochloric acid, and extracted with ethyl acetate. The extract is dried over magnesium sulfate, filtered, and concentrated. To the resulting residue is added n-hexane/ethyl acetate (1:1), and the mixture is washed, filtered, and the obtained powder is dried to give 7-chloro-1-[2-methyl-4-(2-hydroxyacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.38 g) as white powder.

reactant | 7-Chloro-1-[2-methyl-4-(2-acetylacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.48 g | ClC=1C=CC2=C(CCCCN2C(C2=C(C=C(C=C2)NC(CC(C)=O)=O)C)=O)C1 | C22H23ClN2O3
reactant | sodium hydroxide | 5 N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 7-chloro-1-[2-methyl-4-(2-hydroxyacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.38 g | ClC=1C=CC2=C(CCCCN2C(C2=C(C=C(C=C2)NC(CO)=O)C)=O)C1 | C20H21ClN2O3
